US04167569
A solution of 3-(2-amino-5-benzoylbenzimidazol-1-yl)-propionic acid (6.1 g.) in methanol (30 ml.) was treated with a saturated solution (30 ml.) of hydrogen chloride in methanol. The mixture was left at room temperature for 16 hours and then evaporated. The residue was dissolved in water. The solution obtained was adjusted to pH 8.5 with aqueous sodium bicarbonate solution and then extracted with ethyl acetate (3×50 ml.). The extracts were dried (MgSO4) and evaporated to give methyl 3-(2-amino-5-benzoylbenzimidazol-1-yl)propionate as an oil. This oil was dissolved in methanol (60 ml.) and the solution heated at reflux for 5 hours. The solid which precipitated was collected and washed successively with methanol, acetone and then ether to give 8-benzoyl-3,4-dihydropyrimido[1,2-a]-benzimidazol-2(1H)-one (3.4 g.), m.p. 323°-330° C., microanalysis, C17H13N3O2 requires: C, 70.1; H, 4.5; N, 14.4% found: C, 69.9; H, 4.4; N, 14.0%.

reactant | 3-(2-amino-5-benzoylbenzimidazol-1-yl)-propionic acid | 6.1 g | NC1=NC2=C(N1CCC(=O)O)C=CC(=C2)C(C2=CC=CC=C2)=O | C17H15N3O3
reactant | hydrogen chloride | 30 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | methyl 3-(2-amino-5-benzoylbenzimidazol-1-yl)propionate | NC1=NC2=C(N1CCC(=O)OC)C=CC(=C2)C(C2=CC=CC=C2)=O | C18H17N3O3
